US06573273B1
Phenyl isothiocyanate (750 mg, 5.55 mmol) was added dropwise with stirring to a chilled (0° C.) solution of 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.36 mmol) in 1-methyl-2-pyrrolidinone (50 mL). The reaction mixture was poured into water (500 mL) and the pH adjusted to 10 with solid potassium carbonate. The resulting precipitate was isolated by filtration and then rinsed with water. This material was slurried with hot methanol and then purified by column chromatography (silica gel eluting with 2% methanol in dichloromethane to 7% methanol in dichloromethane). The purified material was recrystallized from isopropanol to provide 950 mg of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylthiourea as a white solid, m.p. 142.8-144.0° C. Analysis: Calculated for C24H28N6S. C3H8O: %C, 65.82; %H, 7.37; %N, 17.06; Found: %C, 65.77; %H, 7.41; %N, 17.11.

reactant | Phenyl isothiocyanate | 5.55 mmol, 750 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.36 mmol, 1.0 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
reactant | water | 500 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylthiourea | 950 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=S)NC2=CC=CC=C2)CCCC | C24H28N6S
